Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex
 
Attending: ___.
 
Chief Complaint:
Shortness of breath 

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ F with PMHx of HTN, HLD, obseity s/p gastric bypass, 
anemia, and ESRD on peritoneal dialysis presented to ___ 
emergency department with increasing weakness over the past ___s shortness of breath.
.
Patient reports that 2 weeks ago she has noticed SOB with 
exertion, ie walking to the bathroom, dressing herself, climbing 
stairs. Feels like she cannot catch her breath. She also has 
associated palpitations in the ___ her chest that does not 
radiate. The patient does not have associated chest pain, 
abdominal pain, or diaphoresis. Patient reports 3 episodes of 
emesis over the weekend. She also feels lightheadedness 
associated with these episodes while walking to the bathroom. 
She denies falls or passing out. Of note, the patient noted that 
prior to the onset of her symptoms of SOB, she stopped urinating 
3 days prior (prebiously patient would make a small amount of 
urine despite PD). 
.
She reports a poor appetite for the past 1 month and a weight 
loss of 4 pounds. She denies weight gain, swelling in her ___ 
bilaterally. 
.
On the day of presentation, the patient was walking to her 
bathroom at home when she had the same onset of symptoms- she 
felt SOB, had chest palpitations, and dizziness. The patient had 
to be supported by her husband. Her next-door neighbor was 
called who is a nurse and assessed her. The patient's neighbor 
was unable to get a pulse and reportedly had a low BP. EMS was 
called and the patient was taken to ___.    
.
At the OSH ED, patient was noted to have an elevated white count 
with left shift. Her chest x-ray there was unremarkable and BNP 
was mildly elevated. Creatinine was elevated from her baseline, 
and so she was transferred to ___ ED for further work-up. A 
peritoneal sample was sent for culture at the emergency 
department.  Patient received vancomycin and gentamycin at ___.
.
She denies any skin changes around her PD catheter site or 
drainage from around the site. She also denies diffuse abdominal 
pain or changes to the appearance of dialysis fluid. 
.
At the ___ ED, initial vitals: 97.9 89 ___ 98%. EKG 
showed sinus rhythm with < 1mm STD in the lateral leads 
consistent with previous EKGs. Renal was also notified of the 
patient's admission who assessed the patient and did not feel 
that the patient was volume overloaded. 
.  
Currently, the patient is lying in bed with no specific 
complaints.   
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, chest pain, 
abdominal pain, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
MEDICAL HISTORY:
--Hypertension
--Obesity
--Anemia
--Severe depression
--Anxiety
--Type 2 DM complicated by nephropathy leading to end-stage 
renal disease and initiation of peritoneal dialysis on ___. 
--Diverticulitis
--Lower GI bleed
--Gout
--Hyperlipidemia
--Insomnia
--Urinary tract infections   
.  
SURGICAL HISTORY:
--s/p hysterectomy  
--s/p gastric bypass 2 or ___ years ago  
--s/p lumpectomy  
--s/p vein stripping 
 
Social History:
___
Family History:
Her mother died at the age of ___- had h/o MI and died of sepsis. 
 Her father died at the age of ___ from stroke.  There is no 
significant family history of cancers.  Her daughter has been 
told that she has prediabetes. 

 
Physical Exam:
Admission physical exam:
VS - Temp 97.9 F, BP 134/48, HR 103, RR 20, O2-sat 100% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - RRR, nl S1-S2, soft ___ systolic murmur best appreciated 
at the ___
ABDOMEN - NABS+, soft/NT/ND, no masses or HSM, no 
rebound/guarding, skin around the peritoneal catheter site 
non-erythematous with no drainage.   
EXTREMITIES - WWP, no c/c/e, 1+ DPs bilaterally.   
SKIN - no rashes or lesions   
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, 
.
Discharge physical exam:
Vitals: T 98.2 BP 104/68 (70-125/42-57) HR 65 RR 16 O2 Sat 97% 
on RA
General: Chronically ill appearing patient lying in bed in NAD. 
HEENT: EOMI. MMM. OP without erythema, exudate, or ulcerations.
CV: RRR. No M/R/G appreciated. 
Lungs: CTAB. Nml work of breathing. No crackles or wheezes. No 
accessory muscle use.
Abdomen: NABS+. Soft. NT/ND. Peritoneal catheter in place in the 
LLQ. Bandage overlying the catheter entry site that is c/d/i.
Ext: WWP. No clubbing, cyanosis, or edema.

 
Pertinent Results:
Admission labs:
___ 04:00PM BLOOD WBC-13.7* RBC-3.28* Hgb-10.0* Hct-30.3* 
MCV-92 MCH-30.4 MCHC-32.9 RDW-14.1 Plt ___
___ 04:00PM BLOOD Neuts-84.6* Lymphs-11.6* Monos-2.9 
Eos-0.5 Baso-0.4
___ 04:00PM BLOOD Glucose-128* UreaN-58* Creat-10.1*# 
Na-139 K-3.2* Cl-95* HCO3-27 AnGap-20
___ 04:00PM BLOOD ALT-29 AST-24 CK(CPK)-53 AlkPhos-64 
TotBili-0.2
___ 04:00PM BLOOD Albumin-3.4* Calcium-8.8 Phos-4.8* Mg-2.4
.
Chest x-ray: 
FRONTAL AND LATERAL CHEST RADIOGRAPHS: The heart size is normal. 
The hilar and mediastinal contours are within normal limits. 
There is no pneumothorax, focal consolidation, or pleural 
effusion. IMPRESSION: No acute intrathoracic process.
.
TTE ___: The left atrium and right atrium are normal in 
cavity size. No atrial septal defect or patent foramen ovale is 
seen by 2D, color Doppler or saline contrast with maneuvers. 
Regional left ventricular wall motion is normal. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
a moderate resting left ventricular outflow tract obstruction 
(difficult to precisely quantify, but likely in the vicinity of 
___ mmHg). Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The number of aortic valve leaflets 
cannot be determined. There is no aortic valve stenosis. No 
aortic regurgitation is seen. A late systolic jet of mild (1+) 
mitral regurgitation is seen. There is a trivial/physiologic 
pericardial effusion.
IMPRESSION: Hyperdynamic left ventricular systolic function with 
moderate resting LVOT obstruction. Mild functional late systolic 
mitral regurgitation. Borderline elevated pulmonary pressures.  
.
Chest CTA: 
FINDINGS: The visualized thyroid is unremarkable. There is no 
filling defect seen in the pulmonary arteries to the segmental 
level. Subsegmental pulmonary arteries are limited by 
respiratory motion. The great vessels are normal in caliber. 
There is no aortic abnormality. There is no mediastinum, hilar, 
or axillary lymphadenopathy. There is a small pericardial 
effusion. There are extensive coronary artery calcifications. 
The esophagus is normal. The airways are patent to the 
subsegmental level, there are tracheobronchial calcifications.
There is a 3-mm calcified nodule in the right middle lobe. There 
is a 3 mm
pulmonary nodule in the right upper lobe (2,14). No other 
nodules are seen. Mild dependent basilar atelectasis. There is 
no evidence of pleural effusion. No evidence of pneumonia.
Evaluation of the intra-abdominal viscera is limited. Patient is 
status post gastric surgery. There is free fluid seen in the 
upper abdomen. Correlate clinically.
IMPRESSION:
1. No evidence of pulmonary embolus.
2. There is free fluid seen in the upper abdomen. Correlate 
clinically.
3. 3 mm pulmonary nodule in the right upper lobe (2,14). If low 
risk, no
follow up needed. If high risk, 12 month follow up CT should be 
done. 
.
Microbiology:
___ Blood culture PENDING
.
Discharge labs: 
___ 07:10AM BLOOD WBC-8.6 RBC-2.97* Hgb-9.0* Hct-26.9* 
MCV-91 MCH-30.5 MCHC-33.6 RDW-14.0 Plt ___
___ 07:10AM BLOOD Glucose-76 UreaN-57* Creat-10.1* Na-138 
K-3.3 Cl-99 HCO3-26 AnGap-16
___ 07:10AM BLOOD Calcium-8.3* Phos-5.5* Mg-2.3
 
Brief Hospital Course:
OSH peritoneal cultures: negative for polys and organisms. NGTD

___ year old female with a past medical history of HTN, HLD, 
obesity s/p gastric bypass, anemia, and ESRD on peritoneal 
dialysis who presented to ___ emergency department with 
increasing weakness over the past ___s shortness 
of breath found to be profoundly orthostatic whose symptoms were 
thought to be secondary to over-dialysis.
.  
# Shortness of breath/dizziness: Upon presentation, the patient 
did not appear volume overloaded despite recent development of 
anuria. Given her long-standing history of diabetes there was 
concern that the patient's symptoms could be due to coronary 
artery disease; however, review of the patient's record shows 
that she had a recent stress test that did not show evidence of 
ischemia. An EKG did not show changes from prior, and CK-MB 
fraction was negative. Chest x-ray did not show evidence of 
volume overload or infection. She was found to be very 
orthostatic, and on ambulation, the patient desaturated to low 
___. During this episode of desaturation, the patient was 
profoundly short of breath with subjective chest palpitations 
and dizziness. With rest, the patient recovered. Patient 
underwent CTA for concern for PE as cause of symptoms which was 
negative. ECHO was notable for a hyperdynamic state concerning 
for a hypovolemic state. The patient's orthostasis and ECHO 
findings were attributed to the patient's restricted fluid 
consumption. Renal adjusted the patient's peritoneal dialysis, 
and she was also encouraged to increase her fluid consumption. 
Of note telemetry had no events. On day of discharge, with 
ambulation, the patient was less orthostatic (without symptoms) 
and did not desaturate on ambulation. The patient has follow-up 
arranged with her outpatient nephrologist regarding peritoneal 
dialysis. 
.
# End-stage renal disease on peritoneal dialysis: Secondary to 
diabetic nephropathy. Patient is pursing kidney transplant at 
___ and is followed by Dr. ___. The patient has been 
stable on peritoneal dialysis. Renal was consulted on admission 
and peritoneal dialysis was continued through the admission. 
Given the patient's extreme orthostasis, the patient's dialysis 
was adjusted per renal. Recommendations were made for the 
patient to increase consumption of fluids to prevent symptoms 
from developing. Outside hospital cultures of peritoneal fluid 
were followed during the admission as there was concern for 
peritonitis; gram stain was negative for PMNs and bacterial. 
Preliminary cultures were no growth to date. The patient did not 
receive antibiotics during her hospitalization at ___ her 
peritoneal dialysis catheter site was non-erythematous without 
purulence. 
.
# Incidental findings of pulmonary nodules on CT scan:  3mm 
nodule in right lung noted on CTPA.  However, Ms ___ is 
low-risk as she has no identifiable risk factors, so f/u imaging 
is not required.  However, if risk factors are identified, then 
12 month f/u CT scan is warranted.  
.
CHRONIC ISSUES:
# Type 2 diabetes complicated by peripheral neuropathy and 
nephropathy: Patient is on lantus and humalog as an outpatient. 
Last HgbA1c 6.8 in ___. The patinet's home lantus dose 
was continued through the admission as was a humalog sliding 
scale.  There were no events of hypoglycemia during the 
hospitalization. 
.
# Hypokalemia: Patient was supplemented with oral potassium 
chloride as needed through the admission. 
.
# Anemia: Hematocrit was trended through the admission and 
remained stable. Patient's anemia likely related to patient's 
end-stage renal disease. Patient received a dose of Epogen 
during the admission as she had missed her dose that she 
receives as an outpatient. 
.
# Hypertension: Continued home metoprolol through the admission. 

.
# Hyperlipidemia: Patient also had complaints of weakness. Given 
her use of statins, there was concern for statin-associated 
myopathy. CK was negative. Continued home Crestor through the 
admission. 
.
TRANSITION OF CARE:
#CODE STATUS: FULL CODE (confirmed)
#Pending studies:
--Blood culture

 
Medications on Admission:
Medications - Prescription
INSULIN GLARGINE [LANTUS] -  (Prescribed by Other Provider: Dr.
___ at ___ - 100 unit/mL Solution - 23 units at bedtime
LORAZEPAM - 2 mg Tablet - 1 Tablet(s) by mouth qhs for anxiety
___ ALSO take ___ tablet bid prn anxiety
METOPROLOL SUCCINATE -  (Prescribed by Other Provider) - 25 mg
Tablet Extended Release 24 hr - 1 Tablet(s) by mouth once a day
per pt 10 mg daily
ROSUVASTATIN [CRESTOR] - 40 mg Tablet - 1 Tablet(s) by mouth 
once
a day
.
Medications - OTC
CETIRIZINE [ZYRTEC] -  (OTC) - Dosage uncertain

 
Discharge Medications:
1. lorazepam 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO once a day.  
3. sertraline 100 mg Tablet Sig: One (1) Tablet PO once a day.  
4. ketoconazole 2 % Cream Sig: One (1) Appl Topical BID (2 times 
a day).
Disp:*QS tube* Refills:*0*
5. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
6. calcium acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily).  
8. melatonin 5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
9. Zyrtec 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
10. insulin glargine 100 unit/mL Solution Sig: ___ (23) 
units  Subcutaneous at bedtime.  
11. insulin lispro 100 unit/mL Solution Sig: units according to 
home sliding scale units according to home sliding scale 
Subcutaneous Three times daily prior to meals.  
12. mupirocin 2 % Ointment Sig: One (1) application  Topical 
once a day.  
13. Crestor 40 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Epogen  Injection

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Shortness of breath

Secondary diagnosis:
End-stage renal disease
Type 2 Diabetes Mellitus complicated by diabetic nephropathy 
Hypertension
Depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. 

You were hospitalized with shortness of breath, palpitations, 
and dizziness. Imaging of your chest was reassuring and did not 
show evidence of clot or infection in the lung as an explanation 
for your symptoms. The cause of your symptoms was thought to be 
due to over ultrafiltration during peritoneal dialysis. You will 
have follow-up arranged with your outpatient nephrology (kidney) 
doctor next week; keep this appointment. 

We encourage you to drink fluid (no more than 2 liters per day) 
to ensure that these symptoms do not continue or worsen.  

Take all medications as instructed. Note that the following 
medication changes were made during this admission:
1. *NEW* Ketoconazole 2% cream 1 application twice daily to the 
area between your right ___ and ___ toes. 
Otherwise, no other medication changes have been made. 

Keep all hospital follow-up appointments. Your ___ 
hospital follow-up appointments are listed below.  
 
Followup Instructions:
___